* Example of operating AC analysis
V1 1 0 10
R1 2 1 2 
R2 2 0 2 
C3 2 3 200e-6
R4 2 3 10
I5 3 2 2 90
L4 3 0 1e-3

* At the moment only single-frequency analysis are supported
.ac lin 1 50 50