* Example of AC analysis
V1 1 0 10
R1 2 1 2 
R2 2 0 2 
C3 2 3 200u
R4 2 3 10
I5 3 2 2 90
L4 3 0 1m

* the following command is used
* for a single frequency analysis
.ac lin 1 50 50